US06452014B1
To a solution of 2,5-dibromo-3,6-dimethylpyridine (989 mg, 3.75 mmol) in tetrahydrofuran (6 mL) was added isopropylmagnesium chloride (2 mol/L in tetrahydrofuran; 2.0 mL, 4.0 mmol) under nitrogen atmosphere, and the mixture was stirred at room temperature for 1.5 h. Dimethylformamide (0.58 mL, 7.5 mmol) was added, and the mixture was stirred for additional 10 min. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (7:1 hexane/ethyl acetate) to afford 6-bromo-2,5-dimethyl-3-pyridinecarboxaldehyde (381 mg, 47%).

reactant | 2,5-dibromo-3,6-dimethylpyridine | 3.75 mmol, 989 mg | BrC1=NC(=C(C=C1C)Br)C | C7H7Br2N
reactant | isopropylmagnesium chloride | 4.0 mmol, 2 mol/L, 2.0 mL | C(C)(C)[Mg]Cl
reactant | Dimethylformamide | 7.5 mmol, 0.58 mL | CN(C=O)C | C3H7NO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 6-bromo-2,5-dimethyl-3-pyridinecarboxaldehyde | 381 mg, 47% | BrC1=C(C=C(C(=N1)C)C=O)C | C8H8BrNO
